US05204019
0.1 mol of 4'-n-pentyl-2,3-difluorobiphenyl-4-ol and 0.1 mol of trans-4-n-pentylcyclohexylmethyl iodide are heated to a gentle boil in the presence of 0.12 mol of anhydrous K2CO3 in dimethylformamide (DMF). When the reaction is complete, the mixture is worked up in the customary manner and the product is purified by chromatography and crystallization. Trans-4-n-pentylcyclohexylmethyl 4'-pentyl-2,3-difluorobiphenyl-4-yl ether, C (58° SC) 30° SA 72° N 116° I is obtained.

reactant | 4'-n-pentyl-2,3-difluorobiphenyl-4-ol | 0.1 mol | C(CCCC)C1=CC=C(C=C1)C1=C(C(=C(C=C1)O)F)F | C17H18F2O
reactant | trans-4-n-pentylcyclohexylmethyl iodide | 0.1 mol | C(CCCC)[C@@H]1CC[C@H](CC1)CI | C12H23I
reactant | K2CO3 | 0.12 mol | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Trans-4-n-pentylcyclohexylmethyl 4'-pentyl-2,3-difluorobiphenyl-4-yl ether | C(CCCC)C1=CC=C(C=C1)C1=C(C(=C(C=C1)OC[C@@H]1CC[C@H](CC1)CCCCC)F)F | C29H40F2O
